US07244730B2
(Step 2) 2-Bromo-1-[3-(tert-butyl)-5-(isopropylamino)-4-methoxyphenyl]-1-ethanone
Triethylamine (0.63 ml, 4.5 mmol) and tert-butyl dimethylsilyltrifluoromethanesulfonate (0.6 g, 2.3 mmol) were added to a solution of the 1-[3-(tert-butyl)-5-(isopropylamino)-4-methoxyphenyl]-1-ethanone (0.4 g, 1.5 mmol) in tetrahydrofuran (50 ml) while cooling on ice and the mixture was stirred at the same temperature for 30 minutes, after which N-bromosuccinimide (0.53 g, 3.0 mmol) was added and stirring was continued for 30 minutes. Ethyl acetate was added to the reaction mixture, the mixture was washed with brine and the organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (410 mg) as a light yellow oil.

reactant | Triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[3-(tert-butyl)-5-(isopropylamino)-4-methoxyphenyl]-1-ethanone | 1.5 mmol, 0.4 g | C(C)(C)(C)C=1C=C(C=C(C1OC)NC(C)C)C(C)=O | C16H25NO2
reactant | N-bromosuccinimide | 3.0 mmol, 0.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Bromo-1-[3-(tert-butyl)-5-(isopropylamino)-4-methoxyphenyl]-1-ethanone | 410 mg | BrCC(=O)C1=CC(=C(C(=C1)NC(C)C)OC)C(C)(C)C | C16H24BrNO2
